US04946855
To a solution of ethyl 4-(4-methylphenyl)-2-thiazolecarboxylate (300 mg, 1.21 mmol) dissolved in methanol (10 ml) was added 1N-KOH (3.63 ml, 3.63 mmol) and the mixture was allowed to react at 60° C. for 15 minutes. After the solvent was distilled off from the reaction mixture, the residue was dissolved by adding water and acidified (pH=2) with 2N-HCl under ice-cooling. The produced precipitates were filtered with suction, washed with water and recrystallized from methanol-water to afford 190 mg (yield 72%) of the desired 4-(4-methylphenyl)-2-thiazolecarboxylic acid as white solids, m.p. 112°-114° C.

reactant | ethyl 4-(4-methylphenyl)-2-thiazolecarboxylate | 1.21 mmol, 300 mg | CC1=CC=C(C=C1)C=1N=C(SC1)C(=O)OCC | C13H13NO2S
reactant | KOH | 3.63 mmol, 3.63 ml | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-methylphenyl)-2-thiazolecarboxylic acid | 190 mg, yield 72% | CC1=CC=C(C=C1)C=1N=C(SC1)C(=O)O | C11H9NO2S
